US05824691
The mixture of methyl 3-(2-trichloroacetylpyrrol-1-yl)benzoate (10.0 g), benzyl alcohol (3.3 ml) and potassium carbonate (4.4 g) in N,N-dimethylformamide (30 ml) was stirred for 6 hours at ambient temperature. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate, and evaporated. The residue was purified by column chromatography on silica gel eluting with toluene. The eluted fractions containing the desired product were collected and evaporated in vacuo to give methyl 3-(2-benzyloxycarbonylpyrrol-1-yl)benzoate (8.35 g) as an oil.

reactant | methyl 3-(2-trichloroacetylpyrrol-1-yl)benzoate | 10.0 g | ClC(C(=O)C=1N(C=CC1)C=1C=C(C(=O)OC)C=CC1)(Cl)Cl | C14H10Cl3NO3
reactant | benzyl alcohol | 3.3 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | potassium carbonate | 4.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | methyl 3-(2-benzyloxycarbonylpyrrol-1-yl)benzoate | 8.35 g | C(C1=CC=CC=C1)OC(=O)C=1N(C=CC1)C=1C=C(C(=O)OC)C=CC1 | C20H17NO4
